US06884821B1
Using methyl 2-chloro-4-hydroxybenzoate and isopropyl iodide, 2-chloro-4-isopropoxybenzoic acid was obtained in the same method as in Production Example 277b).

reactant | methyl 2-chloro-4-hydroxybenzoate | ClC1=C(C(=O)OC)C=CC(=C1)O | C8H7ClO3
reactant | isopropyl iodide | C(C)(C)I | C3H7I
product | 2-chloro-4-isopropoxybenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)OC(C)C | C10H11ClO3
